US04808597
N-[5-Tetrazolyl]-4-[(E)-2-(4,4-dimethyl-6-chromanyl)-2-methylvinyl]benzamid
To a stirred solution of 0.5 g (1.55 mmole) of 4-[(E)-2-(4,4-dimethyl-6-chromanyl)-2-methylvinyl]benzoic acid in 20 ml of chloroform-N,N-dimethylformamide (1:1) at -25° C., under nitrogen, was added 0.17 g of triethylamine followed by 0.23 g (1.7 mmole) of isobutyl chloroformate. Stirring was continued for 15 minutes at -25° C. and then a solution of 0.177 g (1.7 mmole) of 5-aminotetrazole in 4 ml of N,N-dimethylformamide was added dropwise during 2 minutes. Stirring was continued for 1 hour as the reaction mixture was allowed to warm to 25° C. The reaction mixture was then diluted with 50 ml of chloroform and washed with 50 ml of 1N hydrochloric acid. The insoluble material was recovered by filtration to give a first crop of the title compound. The layers were then separated and the chloroform layer was washed with 1N hydrochloric acid followed by saturated sodium chloride, dried (MgSO4) and concentrated in vacuo. The residue was triturated under hot chloroform and the insoluble material was collected by filtration to give a second crop of the title compound.

reactant | 4-[(E)-2-(4,4-dimethyl-6-chromanyl)-2-methylvinyl]benzoic acid | 1.55 mmole, 0.5 g | CC1(CCOC2=CC=C(C=C12)/C(=C/C1=CC=C(C(=O)O)C=C1)/C)C | C21H22O3
reactant | triethylamine | 0.17 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 1.7 mmole, 0.23 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 5-aminotetrazole | 1.7 mmole, 0.177 g | NC1=NN=NN1 | CH3N5
solvent | chloroform N,N-dimethylformamide | 20 ml | C(Cl)(Cl)Cl.CN(C=O)C
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[5-Tetrazolyl]-4-[(E)-2-(4,4-dimethyl-6-chromanyl)-2-methylvinyl]benzamid | N1N=NN=C1NC(C1=CC=C(C=C1)\C=C(/C)\C=1C=C2C(CCOC2=CC1)(C)C)=O | C22H23N5O2
